US09399639B2
Step 4) sodium (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl phosphate
To a solution of (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl dihydrogen phosphate (396 mg, 0.66 mmol) in THF (20 mL) was added dropwise a solution of NaOH (58 mg, 1.45 mmol) in 0.3 mL of H2O and 4 mL of THF at rt. The reaction was stirred at rt for 4 h, and then filtered to give the title compound as a white solid (401 mg, 94.4%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl dihydrogen phosphate | 0.66 mmol, 396 mg | P(=O)(OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)(O)O | C24H21ClF2N3O7PS
reactant | NaOH | 1.45 mmol, 58 mg | [OH-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.3 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | sodium (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl phosphate | 401 mg, 94.4% | P(=O)(OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)([O-])[O-].[Na+].[Na+] | InChI=1S/C24H21ClF2N3O7PS.2Na/c1-2-9-39(35,36)29-20-8-7-19(26)21(22(20)27)23(31)18-12-30(13-37-38(32,33)34)24-17(18)10-15(11-28-24)14-3-5-16(25)6-4-14;;/h3-8,10-12,29H,2,9,13H2,1H3,(H2,32,33,34);;/q;2*+1/p-2
